US05356898
4,6-Bis(1,1-dimethylethyl)-5-[(2-methoxyethoxy) methoxy]-2-pyrimidine carboxylic acid hydrazide (0.9 g, 2.5 mmoles), KOH (0.16 g, 2.8 mmoles), and carbon disulfide (0.44 g, 5.8 mmoles) are dissolved in 20 mL of MeOH. The reaction mixture is warmed to reflux under argon for 24 hours. It is cooled to room temperature, quenched with 150 mL of 10% HOAc/H2O, and extracted with ether (3×100 mL). The ether extract is washed with brine (3×100 mL) and evaporated. The oil remaining is taken up in 20 mL of TFA and stirred at room temperature for 30 minutes. The TFA is evaporated on the rotovap, and the oil is partitioned between 100 mL of ether and 100 mL of H2O. The pH of the water layer is adjusted to 5 by the addition of saturated sodium bicarbonate. The layers are separated and the organic layer is washed with 50 mL of brine. Drying over MgSO4 and evaporation of solvent gives a yellow oil. Flash chromatography in 50% Et2O/hexane followed by two recrystallizations from Et2O/hexane gives 0.16 g (20%) of 5-[ 4,6-bis (1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]-1,3,4-oxadiazole-2 (3H)-thione, 234°-236° C. dec.

reactant | 4,6-Bis(1,1-dimethylethyl)-5-[(2-methoxyethoxy) methoxy]-2-pyrimidine carboxylic acid hydrazide | 2.5 mmoles, 0.9 g | CC(C)(C)C1=NC(=NC(=C1OCOCCOC)C(C)(C)C)C(=O)NN | C17H30N4O4
reactant | KOH | 2.8 mmoles, 0.16 g | [OH-].[K+]
reactant | carbon disulfide | 5.8 mmoles, 0.44 g | C(=S)=S | CS2
solvent | MeOH | 20 mL | CO | CH4O
product | 5-[ 4,6-bis (1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]-1,3,4-oxadiazole-2 (3H)-thione | 0.16 g, 20% | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C1=NNC(O1)=S | C14H20N4O2S
